US06541505B1
4-(2-Amino-1,1-dimethylethyl)-N-(2-[3-carbamimidoylindol-5-yl]ethyl)benzamide.
To a solution of 4-(2-[tert-Butoxycarbonylamino]-1,1-dimethylethyl)-N-(2-[1-tert-butoxycarbonyl-3-tert-butoxycarbonylcarbamimidoylindol-5-yl]ethyl)benzamide (0.092 g, 0.14 mmol, reference example 1aaal) in CH2Cl2 (8 mL) is added distilled water (0.1 mL) and trifluoroacetic acid (2 mL). After stirring six hours, the reaction mixture is concentrated and then placed under high vacuum to give a quantitative yield of the title compound as a white solid (m.p. 67-70° C). 1H NMR (D2O): δ 1.29 (6H, s), 2.91 (2H, t, J=7 Hz), 3.12 (2H, s), 3.53 (2H, t, J=7 Hz), 7.14 (1H, d, J=8 Hz), 7.36-7.46 (5H, m), 7.54 (1H, s), 7.93 (1H, s). MS (FAB) m/z 378 (M+H)+. Anal. calcd. for C22H27N5O.3C2HO2F3: C, 46.7; H, 4.2; N, 9.7. Found: C, 46.8; H, 4.5; N, 9.8.

reactant | 4-(2-[tert-Butoxycarbonylamino]-1,1-dimethylethyl)-N-(2-[1-tert-butoxycarbonyl-3-tert-butoxycarbonylcarbamimidoylindol-5-yl]ethyl)benzamide | 0.14 mmol, 0.092 g | C(C)(C)(C)OC(=O)NCC(C)(C)C1=CC=C(C(=O)NCCC=2C=C3C(=CN(C3=CC2)C(=O)OC(C)(C)C)C(NC(=O)OC(C)(C)C)=N)C=C1 | C37H51N5O7
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Amino-1,1-dimethylethyl)-N-(2-[3-carbamimidoylindol-5-yl]ethyl)benzamide | quantitative yield | NCC(C)(C)C1=CC=C(C(=O)NCCC=2C=C3C(=CNC3=CC2)C(N)=N)C=C1 | C22H27N5O
